**********************************************************
*
* TL431 Family
*
* Nexperia
*
*  Adjustable precision Three-terminal shunt regulator family
*
* Adjustment range from 2.5V to 36V
* Current Range from 1mA to 100mA
*
*
*
*
*
* Extraction date (week/year): 09/2020
* Spicemodel includes temperature dependency
*
**********************************************************
*#
.subckt TL431  A K R
Bk kr em I=limit(exp(V(B1,agnd)/0.045)*1E-19*(1+V(k,agnd)/va)+I(BEF)*2,0,0.15)
D1 agnd y D0V5
CM1 K B 11p
Drev agnd K DREV
rimp1 B1 B 500k
Gin agnd ef1 ri agnd 0.1
R3 ef2 y 5k
R2 x agnd 10k
CT1 agnd ef1 10p
Rcl K kr 9
Ck kr agnd 1p
R1 ef2 x 5k
RT1 ef1 agnd {RTEMP}
CR1 agnd x 9p
BEF ef1 ef2 I=((V(ef1,ef2))/25.25)**3
dclp B kr DC
Ds agnd B DS
Rbd agnd A 0.03
rimp agnd P001 1.5Meg
cimp B1 P001 0.012p
Rfb em agnd 1
BB agnd B I=tanh(25*V(x,y))*I(R2)+(V(k,agnd)/va)*I(R2)*0.7
DESD1 agnd R D6Z8
Ds1 P002 agnd DS
GFB B agnd em agnd 2.5E-5
rp1 B P002 130k
R2A x agnd 10k
BIN ri agnd I=I(BEF)/115/(temp+273)*300
Rin R ri 200
.model D D
.param va=130 rgap1=15k rk=230
.model DC     d (Is=1e-17 rs=1 Cj0=1e-15  Vj=0.6 M=0.35 )
.model DREV d (Is=1.55e-12  rs=1  Cj0=28e-12 Vj=0.6 M=0.35 )
.param RTEMP=4.02* (2E-9*Temp**3 + 1E-6*Temp**2 - 0.0002*Temp+2.491)
.model D0V5 d (Is=1.5e-15  N=1 Cjo=1e-18 Vj=0.75 M=0.6  BV=0.4947V  Ibv=100u  nbv=0.08 rs=3 )
.model DS     d( Is=5e-11 Ibv=1e-5 Rs=6 N=1.05 Cjo=1f M=.5 Eg=.69 Xti=2 Vj=0.65 )
.model D6Z8 d (Is=1.5e-15  N=1 Cjo=5e-12 Vj=0.75 M=0.6  BV=6.8 Ibv=1m  nbv=0.08 rs=3 )
*.lib standard.dio
*.backanno
.ends
